US05204462
Isobutyl chloroformate (0.17 ml) was added to a tetrahydrofuran solution (3.5 ml) containing N-benzyloxycarbonyl-L-phenylalanyl-L-proline (523 mg) and N-methylmorpholine (0.15 ml) at -15° C., and the mixture was stirred for 0.5 hour. An N,N-dimethylformamide solution (5.5 ml) containing 6-methyl-2-(L-valylamino)benzoic acid (220 mg) and N-methylmorpholine (0.12 ml) was added dropwise to the obtained reaction mixture at -15° C., and the mixture was stirred at this temperature for 0.5 hour and then at room temperature for two hours. The reaction mixture was treated by the same procedures as in item (c) of Example 1 to obtain 2-(N-benzyloxycarbonyl-L-phenylalanyl-L-prolyl-L-valyl)amino-6-methylbenzoic acid (317 mg).

reactant | Isobutyl chloroformate | 0.17 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-benzyloxycarbonyl-L-phenylalanyl-L-proline | 523 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)O)CCC1 | C22H24N2O5
reactant | N-methylmorpholine | 0.15 ml | CN1CCOCC1 | C5H11NO
reactant | 6-methyl-2-(L-valylamino)benzoic acid | 220 mg | CC1=CC=CC(=C1C(=O)O)NC([C@@H](N)C(C)C)=O | C13H18N2O3
reactant | N-methylmorpholine | 0.12 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 5.5 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 3.5 ml | O1CCCC1 | C4H8O
product | 2-(N-benzyloxycarbonyl-L-phenylalanyl-L-prolyl-L-valyl)amino-6-methylbenzoic acid | 317 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N1[C@H](C(=O)N[C@@H](C(C)C)C(=O)NC2=C(C(=O)O)C(=CC=C2)C)CCC1 | C35H40N4O7
